US05650533
To a suspension of Nail (0.5 g of 60% dispersion in oil) in DMF (10 ml) was added trifluoroethanol (0.92 ml) and the mixture stirred for 30 minutes. After this time the mixture was cooled to 0° C. and a solution of methyl 4-bromo-2-bromomethylbenzoate (3.52 g) in DMF was added, and the resultant mixture stirred at room temperature for 1 hour. 0.5M HCl was added and the mixture extracted with ether. The organic extract was washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to yield methyl 4-bromo-2-trifluoroethoxymethylbenzoate (3.89 g) as a yellow oil, NMR (CDCl3) 3.9(s,3H), 4.0(q,2H), 5.1(s,2H), 7.5(dd,1H), 7.85(d,1H), 7.9(s,1H).

reactant | trifluoroethanol | 0.92 ml | C(C(F)(F)F)O | C2H3F3O
reactant | methyl 4-bromo-2-bromomethylbenzoate | 3.52 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | HCl | 0.5M | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-bromo-2-trifluoroethoxymethylbenzoate | 3.89 g | BrC1=CC(=C(C(=O)OC)C=C1)COCC(F)(F)F | C11H10BrF3O3
